US07345180B2
Methyl 4-amino-3-nitrobenzoate (7.0 g), sodium hydroxide (5.7 g), potassium carbonate (4.9 g) and tetrabutylammonium bromide (0.22 g) were suspended in toluene (100 ml). The mixture was stirred for 1 hour at 40° C., and then dimethylsulfuric acid (7.7 ml) was added thereto and stirred for 2 hours. The reaction solution was extracted with ethyl acetate, and the extract was washed with water and dried over sodium sulfate anhydrous. The product was concentrated under reduced pressure to give methyl 4-methylamino-3-nitrobenzoate (7.3 g, Y.:97%).

reactant | Methyl 4-amino-3-nitrobenzoate | 7.0 g | NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H8N2O4
reactant | sodium hydroxide | 5.7 g | [OH-].[Na+]
reactant | potassium carbonate | 4.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfuric acid | 7.7 ml | COS(OC)(=O)=O | C2H6O4S
catalyst | tetrabutylammonium bromide | 0.22 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4-methylamino-3-nitrobenzoate | 7.3 g, 97% | CNC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H10N2O4
